US08420690B2
To a solution of 2-chloro-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide (125 mg, 0.22 mmol) in tetrahydrofuran (1.1 ml) and methanol (1.1 ml) at 25° C. was added hydrazine (0.06 ml, 1.76 mmol) dropwise. After 12 h the solution was concentrated, dry loaded onto silica and purified by column chromatography (2% MeOH in DCM (1% NH4OH)). The free base was transferred to the HCl salt by addition of excess 2M HCl in Ether (20 ml) to the residue in DCM (40 ml) affording the HCl salt of N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-2-chloro-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide (70 mg, 0.13 mmol, 57% yield) as a white solid: LCMS (ES) m/z=440, 442 (M, M+2)+, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.17 (d, J=9.09 Hz, 1 H) 8.08 (br. s., 2 H) 7.69 (d, J=8.08 Hz, 1 H) 7.58 (br. s., 1 H) 7.57 (d, J=2.02 Hz, 1 H) 7.40-7.43 (m, 1 H) 7.02 (s, 1 H) 6.48 (d, J=2.02 Hz, 1 H) 4.50-4.57 (m, 1 H) 3.78 (s, 3 H) 3.44 (s, 3 H) 2.98-3.07 (m, 4 H).

reactant | 2-chloro-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide | 0.22 mmol, 125 mg | ClC=1N(C(=CC1C(=O)N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F)C1=CC=NN1C)C | C28H23ClF3N5O3
reactant | hydrazine | 1.76 mmol, 0.06 ml | NN | H4N2
solvent | tetrahydrofuran | 1.1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1.1 ml | CO | CH4O
product | N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-2-chloro-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide | 0.13 mmol, 70 mg, 57% yield | NC[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=C(N(C(=C1)C1=CC=NN1C)C)Cl | C20H21ClF3N5O
